US04594341
4-N-(1-carboxyethyl)-6-(1-carboethoxy-3-phenylpropylamino)-perhydro-1,4-thiazepin-5-one
6-Amino-4-N-(1-carboxyethyl)perhydro-1,4-thiazepin-5-one (0.05 g) is suspended in 1 ml of methanol. Ethyl 2-keto-4-phenylbutyrate (0.24 g) and acetic acid (0.02 g) are added. A 1M solution of sodium cyanoborohydride (0.75 ml) is added dropwise over a period of twenty hours. After removal of methanol, the reaction mixture is taken up in water and loaded onto a column of Dowex-50 (on the proton cycle). After thorough washing with water, the column is developed with 5% pyridine solution. Lyophilization of the eluent afforded the crude product (0.08 g), which is purified by preparative thin layer chromatography on silica gel (9:1 chloroform-methanol containing 5% formic acid). The product is obtained as an oil (0.07 g). The NMR spectrum is consistent with the assigned structure.

reactant | 6-Amino-4-N-(1-carboxyethyl)perhydro-1,4-thiazepin-5-one | 0.05 g | NC1C(N(CCSC1)C(C)C(=O)O)=O | C8H14N2O3S
reactant | Ethyl 2-keto-4-phenylbutyrate | 0.24 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
reactant | acetic acid | 0.02 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.75 ml | C(#N)[BH3-].[Na+]
solvent | methanol | 1 ml | CO | CH4O
product | 4-N-(1-carboxyethyl)-6-(1-carboethoxy-3-phenylpropylamino)-perhydro-1,4-thiazepin-5-one | 0.07 g | C(=O)(O)C(C)N1CCSCC(C1=O)NC(CCC1=CC=CC=C1)C(=O)OCC | C20H28N2O5S
